US09080011B2
3-(4-hydroxy-3-methoxyphenyl)propanoic acid (dihydroferulic acid)
A solution was prepared from 8.0 g (0.034 mol) of acetyldihydroferulic acid and 4.7 g (0.118 mol) of sodium hydroxide in 100 mL of water and refluxed for 5 h. After cooling to room temperature, the aqueous solution was acidified with hydrochloric acid and extracted with dichloromethane. The organic layer was washed with brine and dried over magnesium sulfate. The evaporation of the solvent left a yellow crude product that was dissolved in dichloromethane and precipitated in hexanes to yield 5.5 g of an off-white powder in 83% yield.

reactant | 3-(4-acetoxy-3-methoxyphenyl)propanoic acid | 0.034 mol, 8.0 g | C(C)(=O)OC1=C(C=C(C=C1)CCC(=O)O)OC | C12H14O5
reactant | sodium hydroxide | 0.118 mol, 4.7 g | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | water | 100 mL | O | H2O
product | 3-(4-hydroxy-3-methoxyphenyl)propanoic acid | 5.5 g, 83% yield | OC1=C(C=C(C=C1)CCC(=O)O)OC | C10H12O4
